US05240938
Step A: Preparation of methyl 4-tert-butyldimethylsilyloxy-3-chlorobenzoate
To a solution of 5.00 g (26.8 mmol) of methyl 3-chloro-4-hydroxybenzoate dissolved in 40 mL of CH2Cl2 was added 6.55 g (53.6 mmol) of 4-dimethylaminopyridine, 4.85 g (32.2 mmol) of tert-butyldimethylchlorosilane and the mixture was stirred at room temperature for 3.5 hours. The reaction mixture was filtered, diluted with ethyl acetate, washed with 0.1N HCl, saturated NaHCO3, and brine. The product layer was then dried (MgSO4), filtered and evaporated in vacuo to afford 8.05 g (100%) of the title compound.

reactant | methyl 3-chloro-4-hydroxybenzoate | 26.8 mmol, 5.00 g | ClC=1C=C(C(=O)OC)C=CC1O | C8H7ClO3
reactant | tert-butyldimethylchlorosilane | 32.2 mmol, 4.85 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 53.6 mmol, 6.55 g | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 4-tert-butyldimethylsilyloxy-3-chlorobenzoate | 8.05 g, 100% | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C(=O)OC)C=C1)Cl | C14H21ClO3Si
